US07579469B2
Synthesis of 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1-methyl-3,4-dihydro-1H-quinoxalin-2-one
A solution of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane (98.8 mg) and 1-methyl-3,4-dihydro-1H-quinoxalin-2-one (prepared as the minor regioisomer following a similar procedure described for 3,4-dihydro-1H-quinoxalin-2-one; R. E. TenBrink et al., J. Med. Chem., 1994, 37, pp. 758-768) (165 mg) in dimethylformamide (0.75 mL) was heated at 140° C. for 60 hours. The resulting mixture was poured into saturated aqueous sodium bicarbonate solution and extracted twice with diethyl ether. The combined organic phases were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography with silica gel (eluted with 20% ethyl acetate-hexanes) to give the title compound as a pale yellow solid (16.2 mg), m.p. 132° C.-134° C.

reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 98.8 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | 1-methyl-3,4-dihydro-1H-quinoxalin-2-one | CN1C(CNC2=CC=CC=C12)=O | C9H10N2O
reactant | 3,4-dihydro-1H-quinoxalin-2-one | N1C(CNC2=CC=CC=C12)=O | C8H8N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 0.75 mL | CN(C=O)C | C3H7NO
product | 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1-methyl-3,4-dihydro-1H-quinoxalin-2-one | 16.2 mg | FC=1C=CC(=C(C1)C(CC(CN1CC(N(C2=CC=CC=C12)C)=O)(C(F)(F)F)O)(C)C)OC | C23H26F4N2O3
